US05308541
A solution of 0.05 m of 1-[trans-4-(trans-4-n-propylcyclohexyl)cyclohexyl]-2-(p-bromophenyl)ethane (DE 3317597) and 0.05 m of p-trifluoromethylphenylboric acid (prepared from p-bromotriflurotoluene by consecutive reaction with n-BuLi/B(OCH3)3 and H+ /H2O) in 100 ml of toluene and 50 ml of ethanol is refluxed for 4 hours after 0.0001 m of Pd(Ph3)4 and 50 ml of Na2CO3 solution (2M) have been added. Conventional extractive work-up and subsequent purification by chromatography and crystallization give 1-[trans-4-(trans-4-n-propylcyclohexyl)cyclohexyl]-2-(4-trifluoromethylbiphenyl-4'-yl)ethane.

reactant | 1-[trans-4-(trans-4-n-propylcyclohexyl)cyclohexyl]-2-(p-bromophenyl)ethane | C(CC)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CCC1=CC=C(C=C1)Br | C23H35Br
reactant | p-trifluoromethylphenylboric acid | FC(C1=CC=C(C=C1)OB(O)O)(F)F | C7H6BF3O3
reactant | Na2CO3 | 2M, 50 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-[trans-4-(trans-4-n-propylcyclohexyl)cyclohexyl]-2-(4-trifluoromethylbiphenyl-4'-yl)ethane | C(CC)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CCC1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F | C30H39F3
